US09169259B2
A mixture of 6-chloro-8-(2,2-dimethylpyrrolidin-1-yl)imidazo[1,2-b]pyridazine (140 mg, 0.56 mmol), phenylboronic acid (103 mg, 0.84 mmol), Pd2(dba)3 (34 mg, 0.06 mmol), X-phos (114 mg, 0.24 mmol) and K2CO3 (235 mg, 1.70 mmol) in dioxane (10 mL) and water (1 mL) was heated to 100° C. with stirring for 4 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=200:1) to give 8-(2,2-dimethylpyrrolidin-1-yl)-6-phenylimidazo[1,2-b]pyridazine (65 mg, 40%) as a light yellow solid. 1H NMR (300 MHz, DMSO): δ 7.91-7.87 (m, 3H), 7.53-7.49 (m, 4 h), 6.54 (s, 1H), 4.43-4.40 (m, 1H), 2.08-2.06 (m, 4 h), 1.70 (s, 6H). LC-MS: [M+H]+, 293, tR=1.76 min, HPLC: 95% at 214 nm, 95.55% at 254 nm, tR=3.943 min.

reactant | 6-chloro-8-(2,2-dimethylpyrrolidin-1-yl)imidazo[1,2-b]pyridazine | 0.56 mmol, 140 mg | ClC=1C=C(C=2N(N1)C=CN2)N2C(CCC2)(C)C | C12H15ClN4
reactant | phenylboronic acid | 0.84 mmol, 103 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | X-phos | 0.24 mmol, 114 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K2CO3 | 1.70 mmol, 235 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd2(dba)3 | 0.06 mmol, 34 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-(2,2-dimethylpyrrolidin-1-yl)-6-phenylimidazo[1,2-b]pyridazine | 65 mg, 40% | CC1(N(CCC1)C=1C=2N(N=C(C1)C1=CC=CC=C1)C=CN2)C | C18H20N4
